US07452911B2
13b 2-(4-chloro-phenyl)-5-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylethynyl]-pyridine
Under an N2 atmosphere 773 mg (2.25 mmol) Cs2CO3, 14 mg (0.08 mmol) CuI and 87 mg (0.08 mmol) tetrakis-triphenylphosphane-palladium are added to a solution of 403 mg (1.5 mmol) 5-bromo-2-(4-chloro-phenyl)-pyridine and 322 mg (1.5 mmol) 1-[2-(4-ethynyl-phenoxy)-ethyl]-pyrrolidine in 10 mL THF and the reaction mixture is stirred for 4 h at RT. Then it is heated to 60° C. for 16 h. The mixture is evaporated down i.vac., the residue is combined with 30 mL water, 5 mL 3% NH3 solution and 60 mL EtOAc, the organic phase is separated off and dried over Na2SO4. After the desiccant and solvent have been eliminated the residue is purified first by chromatography (silica gel, EtOAc/MeOH/NH3 19:1:0.1) and then by HPLC.

reactant | Cs2CO3 | 2.25 mmol, 773 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 5-bromo-2-(4-chloro-phenyl)-pyridine | 1.5 mmol, 403 mg | BrC=1C=CC(=NC1)C1=CC=C(C=C1)Cl | C11H7BrClN
reactant | 1-[2-(4-ethynyl-phenoxy)-ethyl]-pyrrolidine | 1.5 mmol, 322 mg | C(#C)C1=CC=C(OCCN2CCCC2)C=C1 | C14H17NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | CuI | 0.08 mmol, 14 mg | [Cu]I
product | 2-(4-chloro-phenyl)-5-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylethynyl]-pyridine | ClC1=CC=C(C=C1)C1=NC=C(C=C1)C#CC1=CC=C(C=C1)OCCN1CCCC1 | C25H23ClN2O
